US08137821B2
0.830 mg (4.63 mmol) of Dimethylhydroxymethyl-2-fluoro-5-pyridylacetylene and 195 mg (4.86 mmol) of NaOH (KISHIDA CHEMICAL CO., Ltd., 0.7 mm granular, 98%) were placed in a 50 mL two-neck flask equipped with a reflux condenser and the air inside the flask was replaced with Ar. 23 mL of toluene was added thereto and the mixture was refluxed at 120° C. for 1 hour. Toluene was added to the reaction mixture and the mixture was washed with a saturated aqueous ammonium chloride solution and dried over magnesium sulfate. The solvent was distilled off under reduced pressure at 95 mmHg/72° C. to give 6-fluoro-3-pyridylethyne as an orange-color liquid (0.18 g, yield: 32%).

reactant | Dimethylhydroxymethyl-2-fluoro-5-pyridylacetylene | 4.63 mmol, 0.830 mg | CC1=C(C(=NC=C1C#CCO)F)C | C10H10FNO
reactant | NaOH | 4.86 mmol, 195 mg | [OH-].[Na+]
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 23 mL | C1(=CC=CC=C1)C | C7H8
product | 6-fluoro-3-pyridylethyne | 0.18 g, yield: 32% | FC1=CC=C(C=N1)C#C | C7H4FN
